***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD17559Q5
* Date: 12/04/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS374 - November 2012
*
*****************************************************************************
 *$
**********************************************************************
**********************************************************************
*                                                                    *
*   csd87312q3e   -  PSpice Model                                    *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D1  2=D2  3=G  4=S
**********************************************************************
.subckt CSD87312Q3E D1 D2 G S
.PARAM  ptrc1    2.425e-3		; temp co of ext Rd / Rs
.PARAM  ptrc2    6.0e-6
x1 D1 G1 S	csd87312q3eq1
x2 D2 G1 S	csd87312q3eq2
RG	G	G1	4.4
.ends CSD87312Q3E

.SUBCKT CSD87312Q3EQ1 1 2 3
* PARAMETER (local) DEFINITIONS SECTION
.PARAM  pWidthP  0.5474252
.PARAM  pWidth   {pWidthP*1e6}
.PARAM  pLen     0.5u
.PARAM  perimP   {2.1*pWidthP}
.PARAM  perim    {perimP*1e6}
.PARAM  ptrc1    2.425e-3		; temp co of ext Rd / Rs
.PARAM  ptrc2    5.0e-6
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pWidthP} L={pLen} PS={perimP} PD={perimP}
DBD   3  1	 DBD
CBD0  3  1   148e-12
RBD0  3  1   9e9
CGD0  2 13	 2E-12
RGD  13  1   2e6
CGS0  2  3	 1e-18
M2   12 11 12 20  PMOSd W={pWidthP} L=0.09u PS={perimP} PD={perimP}
*RDx  20 12   1e14
*CDx  20 12   2p
CGS   2 99 5e-12
RGS   99 3 7.5
DDx  20  10  DDx
DDG  14  11	 DD
DGD  14 10	 DD
RGG   2 11	 0.6
RSB  12  9	 rtemp 4.860040986e-3
RSS   9  3 	 rtemp 4.860040986e-3
RDD   1 10 	 rtemp 1.368600680e-3
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version = 3.2  
+ TNOM   = 27            LINT   = 0.050e-6      CAPMOD = 2
+ TOX    = 1.75e-8       NCH    = 2.165e17      NSUB   = 1.5e16
+ AGS    = 0.0           PVAG   = 0.0           U0     = 602.5
+ A0     = 1.10          A1     = 0.0           A2     = 1.0
+ UA     = 2.25e-9       UB     = 0.10e-19      VBM    = -10
+ UA1    = 0.01e-9       UB1    = -0.01e-18     UTE    = -1.50
+ KT1    = -0.65         KT2    = 0.022         KT1L   = 1.0e-15
+ DVT0   = 2.2           DVT1   = 0.53	      DVT2   = -0.033
+ ETA0   = 0.020         ETAB   = -0.07         XJ     = 4e-7
+ PDIBLC1= 0.1           PDIBLC2= 0.005         NLX    = 1.75e-7
+ PSCBE1 = 7.0e8         PSCBE2 = 2e-7          PCLM   = 0.75
+ VOFF   = -0.158        NFACTOR= 1.83          JS     = 0
+ DROUT  = 0.9           DSUB   = 1.3           DELTA  = 0.045
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 245.00e-12    CGDO   = 0.1e-12       CGBO   = 1e-18  )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.90         IS     = 7e-14
+ TOX    = 1.75e-8       NSUB   = 5.0e17	      gamma  = 4.0
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18  )
******************************************************************* 
.MODEL DBD D (CJO=8.50e-11 VJ=1.00 M=0.5 TNOM=27 FC=0.5 TT=1e-09 
+ XTI=-2.0 BV=31 IS=8.0e-12 N=1.15 RS=5.50e-3 TRS1=3.5e-3)
.MODEL DD  D (CJO=0.8e-10 VJ=0.50 M=0.75 IS=1e-13 TNOM=27)
.MODEL DDx D (CJO=0.085e-09 VJ=0.9 M=0.9 IS=1e-13 RS=1.0 TNOM=25)
*******************************************************************
.model rtemp res (tc1={ptrc1} tc2={ptrc2})
.ENDS CSD87312Q3EQ1 
*$
.SUBCKT CSD87312Q3EQ2 1 2 3
* PARAMETER (local) DEFINITIONS SECTION
.PARAM  pWidthP  0.5474252
.PARAM  pWidth   {pWidthP*1e6}
.PARAM  pLen     0.5u
.PARAM  perimP   {2.1*pWidthP}
.PARAM  perim    {perimP*1e6}
.PARAM  ptrc1    2.425e-3		; temp co of ext Rd / Rs
.PARAM  ptrc2    5.0e-6
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pWidthP} L={pLen} PS={perimP} PD={perimP}
DBD   3  1	 DBD
CBD0  3  1   148e-12
RBD0  3  1   9e9
CGD0  2 13	 2E-12
RGD  13  1   2e6
CGS0  2  3	 1e-18
M2   12 11 12 20  PMOSd W={pWidthP} L=0.09u PS={perimP} PD={perimP}
*RDx  20 12   1e14
*CDx  20 12   2p
CGS   2 99 5e-12
RGS   99 3 7.5
DDx  20  10  DDx
DDG  14  11	 DD
DGD  14 10	 DD
RGG   2 11	 0.6
RSB  12  9	 rtemp 4.860040986e-3
RSS   9  3 	 rtemp 4.860040986e-3
RDD   1 10 	 rtemp 1.368600680e-3
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version = 3.2  
+ TNOM   = 27            LINT   = 0.050e-6      CAPMOD = 2
+ TOX    = 1.75e-8       NCH    = 2.165e17      NSUB   = 1.5e16
+ AGS    = 0.0           PVAG   = 0.0           U0     = 602.5
+ A0     = 1.10          A1     = 0.0           A2     = 1.0
+ UA     = 2.25e-9       UB     = 0.10e-19      VBM    = -10
+ UA1    = 0.01e-9       UB1    = -0.01e-18     UTE    = -1.50
+ KT1    = -0.65         KT2    = 0.022         KT1L   = 1.0e-15
+ DVT0   = 2.2           DVT1   = 0.53	      DVT2   = -0.033
+ ETA0   = 0.020         ETAB   = -0.07         XJ     = 4e-7
+ PDIBLC1= 0.1           PDIBLC2= 0.005         NLX    = 1.75e-7
+ PSCBE1 = 7.0e8         PSCBE2 = 2e-7          PCLM   = 0.75
+ VOFF   = -0.158        NFACTOR= 1.83          JS     = 0
+ DROUT  = 0.9           DSUB   = 1.3           DELTA  = 0.045
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 245.00e-12    CGDO   = 0.1e-12       CGBO   = 1e-18  )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.90         IS     = 7e-14
+ TOX    = 1.75e-8       NSUB   = 5.0e17	      gamma  = 4.0
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18  )
******************************************************************* 
.MODEL DBD D (CJO=8.50e-11 VJ=1.00 M=0.5 TNOM=27 FC=0.5 TT=1e-09 
+ XTI=-2.0 BV=31 IS=8.0e-12 N=1.15 RS=5.50e-3 TRS1=3.5e-3)
.MODEL DD  D (CJO=0.8e-10 VJ=0.50 M=0.75 IS=1e-13 TNOM=27)
.MODEL DDx D (CJO=0.085e-09 VJ=0.9 M=0.9 IS=1e-13 RS=1.0 TNOM=25)
*******************************************************************
.model rtemp res (tc1={ptrc1} tc2={ptrc2})
.ENDS CSD87312Q3EQ2 
*$
